US06617346B1
To a solution of (3-bromo-5-methoxymethyl-benzyloxy)-tert-butyl-dimethylsilane (2.1 g, 6.081 mmol) in dimethylformamide (10 mL) at room temperature was added zinc cyanide (428.4 mg, 3.649 mmol). The reaction mixture was degassed by passing argon through for 2 h before tetrakis(triphenylphosphine)palladium (422 mg, 0.365 mmol) was added. The reaction mixture was heated at 80° C. under argon for 8 h. The reaction mixture was taken up in diethyl ether and washed with ammonium hydroxide, brine and dried over anhydrous sodium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 5-10% ethyl acetate in hexanes yielded 3-(tert-butyl-dimethylsilanyloxymethyl)-5-methoxymethyl-benzonitrile (1.402 g, 79%).

reactant | (3-bromo-5-methoxymethyl-benzyloxy)-tert-butyl-dimethylsilane | 6.081 mmol, 2.1 g | BrC=1C=C(CO[Si](C)(C)C(C)(C)C)C=C(C1)COC | C15H25BrO2Si
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | zinc cyanide | 3.649 mmol, 428.4 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.365 mmol, 422 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(tert-butyl-dimethylsilanyloxymethyl)-5-methoxymethyl-benzonitrile | 1.402 g, 79% | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C#N)C=C(C1)COC | C16H25NO2Si
